US08039495B2
A solution of 3-(4′,5′-difluoro-2′-methoxy-biphenyl-4-yloxymethyl)-benzoic acid (20 g, 54 mmol), DIEA (38 mL, 216 mmol), EDCI (15.47 g, 81 mmol) and HOAT (11 g, 81 mmol) in methylene chloride (800 mL) was stirred at room temperature for 1 h, followed by addition of N-methyl glycine ethyl ester hydrochloride (12.44 g, 81 mmol). The resulting mixture was stirred at room temperature for 24 h, then treated with EtOAc (1.5 L) and water (1.5 L). The organic layer was separated, washed with water and brine, dried over sodium sulfate, filtered and evaporated. The oily residue was purified by column (0-35% EtOAc in hexane) to give {[3-(4′,5′-difluoro-2′-methoxy-biphenyl-4-yloxymethyl)-benzoyl]-methyl-amino}-acetic acid ethyl ester, 17 g (67%). LC-MS (ES) calculated for C26H25F2NO5, 469; found m/z 470 [M+H]+.

reactant | 3-(4′,5′-difluoro-2′-methoxy-biphenyl-4-yloxymethyl)-benzoic acid | 54 mmol, 20 g | FC1=CC(=C(C=C1F)C1=CC=C(C=C1)OCC=1C=C(C(=O)O)C=CC1)OC | C21H16F2O4
reactant | DIEA | 216 mmol, 38 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | EDCI | 81 mmol, 15.47 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOAT | 81 mmol, 11 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | N-methyl glycine ethyl ester hydrochloride | 81 mmol, 12.44 g | Cl.C(C)OC(CNC)=O
solvent | methylene chloride | 800 mL | C(Cl)Cl | CH2Cl2
solvent | water | 1.5 L | O | H2O
solvent | EtOAc | 1.5 L | CCOC(=O)C | C4H8O2
product | {[3-(4′,5′-difluoro-2′-methoxy-biphenyl-4-yloxymethyl)-benzoyl]-methyl-amino}-acetic acid ethyl ester | C(C)OC(CN(C)C(C1=CC(=CC=C1)COC1=CC=C(C=C1)C1=C(C=C(C(=C1)F)F)OC)=O)=O | C26H25F2NO5
